US07759376B2
Step 1. Preparation of methyl 3-methoxy-4′-nitrobiphenyl-4-carboxylate
To a solution of methyl 4-bromo-2-methoxybenzoate (0.95 g, 3.9 mmol) and 4-nitrophenylboronic acid (1.29 g, 7.75 mmol) in toluene (10 mL) was added Na2CO3 (1.85 g, 17.4 mmol), 1,1-bis(diphenylphosphino)ferrocenepalladium(II) chloride complex with dichloromethane (0.06 g, 0.08 mmol), 1,4-dioxane (5 mL), and water (5 mL). The mixture was heated at reflux for 3 h and then allowed to cool to rt. The mixture was diluted with EtOAc and water, and the organic layer was isolated, dried over MgSO4, and concentrated in vacuo. The material was purified by column chromatography (25% EtOAc in hexanes), yielding 0.675 g (61%) of the title compound. LC/MS m/z 287.9 (MH+); retention time 3.14 min.

reactant | methyl 4-bromo-2-methoxybenzoate | 3.9 mmol, 0.95 g | BrC1=CC(=C(C(=O)OC)C=C1)OC | C9H9BrO3
reactant | 4-nitrophenylboronic acid | 7.75 mmol, 1.29 g | [N+](=O)([O-])C1=CC=C(C=C1)B(O)O | C6H6BNO4
reactant | Na2CO3 | 17.4 mmol, 1.85 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | dichloromethane | 0.08 mmol, 0.06 g | ClCCl | CH2Cl2
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
solvent | water | 5 mL | O | H2O
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | methyl 3-methoxy-4′-nitrobiphenyl-4-carboxylate | 0.675 g, 61% | COC=1C=C(C=CC1C(=O)OC)C1=CC=C(C=C1)[N+](=O)[O-] | C15H13NO5
